.title 12AX7 Common Cathode Validation
VB supply 0 DC 200
RP supply plate 100k
VIN input 0 DC 0 SIN(0 0.5 440)
CIN input grid 22n
RG grid 0 1MEG
RK cathode 0 1.5k
BEd ed 0 V = V(plate,cathode)/600 * ln(1 + exp(600*(0.01 + V(grid,cathode)/sqrt(300 + V(plate,cathode)*V(plate,cathode) + 0.000001))))
BIp plate cathode I = pwr(max(V(ed),0), 1.4) / 1060
.options reltol=0.001 abstol=1n vntol=1u
.ic V(plate)=146 V(cathode)=0.8 V(grid)=0 V(ed)=0.5
.tran 20.833u 141.67m uic
.end
